US04218370
A. Preparation of Allyl Levulinate t-Amylhydrazone
To a 1 liter round bottom flask equipped with a magnetic stirrer and water-cooled condenser was added 760 grams (0.5 mole) of a 9.1% aqueous solution of t-amylhydrazine hydrochloride, 78 grams (0.5 mole) of allyl levulinate and 40 grams (0.5 mole) of 50% sodium hydroxide. The flask was placed in an oil bath on a magnetic stirrer and the contents stirred and heated to reflux. The reaction was refluxed gently for 3 hours and allowed to cool to room temperature. The organic layer was separated, dried over anhydrous sodium sulfate and the drying agent removed by filtration. The yellow liquid product weighed 116 grams (96.5% crude yield). The infrared spectrum of the product contained a strong band at 1718 cm-1 (carbonyl) and a weak band at 1620 cm-1 (C=N) indicating that the hydrazone band had formed and the ester group was still intact.

reactant | t-amylhydrazine hydrochloride | Cl.C(C)(C)(CC)NN
reactant | allyl levulinate | 0.5 mole, 78 grams | C(CCC(=O)C)(=O)OCC=C | C8H12O3
reactant | sodium hydroxide | 0.5 mole, 40 grams | [OH-].[Na+]
solvent | water | O | H2O
product | Allyl Levulinate t-Amylhydrazone | C(C)(C)(CC)NN=C(CCC(=O)OCC=C)C | C13H24N2O2
